US04954501
(a) 5-methyl-6-[3-nitro-4-[4-(3-phthalimidopropyl)-piperzin-1-yl]-phenyl]-4,5-dihydro-3(2H)-pyridazinone
A mixture of 3.16 g (10 mmol) of 5-methyl-6-[3-nitro-4-(1-piperazinyl)-phenyl]-4,5-dihydro-3(2H)-pyridazinone, 2.68 g (10 mmol) of N-(3-bromopropyl)-phthalimide, 1.38 g (10 mmol) of potassium carbonate and 50 ml of dimethyl formamide is stirred at 100° C. for 24 hours.

reactant | 5-methyl-6-[3-nitro-4-(1-piperazinyl)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 10 mmol, 3.16 g | CC1CC(NN=C1C1=CC(=C(C=C1)N1CCNCC1)[N+](=O)[O-])=O | C15H19N5O3
reactant | N-(3-bromopropyl)-phthalimide | 10 mmol, 2.68 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-[3-nitro-4-[4-(3-phthalimidopropyl)-piperzin-1-yl]-phenyl]-4,5-dihydro-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC(=C(C=C1)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-])=O | C26H28N6O5
